US09353107B2
Step-ii: tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluorophenyl)piperidine-1-carboxylate
Using similar reaction conditions as described in step-ii of example-82, tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluorophenyl)-5,6-di hydropyridine-1(2H)-carboxylate (103 mg, 0.139 mmol) was reduced with palladium hydroxide (50 mg) in ethyl acetate/ethanol 5/15 mL to afford 102 mg (99% yield) of the titled compound. MS: m/z=742.6 (M+1).

reactant | tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluorophenyl)-5,6-di hydropyridine-1(2H)-carboxylate | 0.139 mmol, 103 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=C(C=C3)C3=CCN(CC3)C(=O)OC(C)(C)C)F)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C40H36F3N5O4S
solvent | 1-(4-methoxybenzyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | COC1=CC=C(CN2N=CC(=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C17H23BN2O3
catalyst | palladium hydroxide | 50 mg | [OH-].[Pd+2].[OH-]
product | tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluorophenyl)piperidine-1-carboxylate | 102 mg, 99% yield | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=C(C=C3)C3CCN(CC3)C(=O)OC(C)(C)C)F)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C40H38F3N5O4S
